US08198453B2
Step 2. tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate
Hydrogenation of (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate (62 mg, 0.51 mmol) was carried out in EtOAc (20 mL), 10% Pd/C (15 mg) under 40 psi of H2 for 2 h. After filtration 52 mg of tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate was obtained, yield 91%. MS ESI+ve m/z 273 (M+H).

reactant | (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate | 0.51 mmol, 62 mg | N(=[N+]=[N-])C[C@H](C[C@@H]1COCCC1)N(C([O-])=O)C
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate | yield 91% | NC[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)C | C14H28N2O3
